US05789345
41.86 parts of glyphosate having a purity of 95.57% were added to 42.40 parts of water. When 13.99 parts of isopropylarnine were added to the mixture, with stirring, the glyphosate started to dissolve in the water with heat generation. A further 1.75 parts of isopropylamine were then added to the mixture and stirring was continued. As a result, the glyphosate dissolved completely to give a glyphosate-isopropylamine solution containing 40.01 parts of glyphosate.

reactant | glyphosate | C(C(=O)O)NCP(=O)(O)O | C3H8NO5P
reactant | isopropylarnine | C(C)(C)N | C3H9N
solvent | water | O | H2O
product | glyphosate isopropylamine | C(C(=O)O)NCP(=O)(O)O.C(C)(C)N | InChI=1S/C3H8NO5P.C3H9N/c5-3(6)1-4-2-10(7,8)9;1-3(2)4/h4H,1-2H2,(H,5,6)(H2,7,8,9);3H,4H2,1-2H3
